US07560569B2
1-Hydroxybenzotriazole (138 mg), 4-benzyloxycarbonylbicyclo[2.2.2]octane-1-carboxylic acid (72.0 mg) and N,N-dimethylformamide (8 mL) were mixed together. While the mixture was chilled in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (265 mg) was added and the mixture was stirred at room temperature for 1 hour. Subsequently, a mixture of 4,4-difluorocyclohexylamine hydrochloride (108 mg), triethylamine (105 μL) and N,N-dimethylformamide (2 mL) was added and the resultant mixture was stirred at room temperature for 18 hours and was then concentrated under reduced pressure. Water (10 mL) was added to the residue and the solution was extracted with ethyl acetate (3×10 mL). The ethyl acetate extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by a silica gel column (eluant:hexane:ethyl acetate=3:1) to give 4-benzyloxycarbonylamino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide (57.0 mg) as a white solid.

reactant | 1-Hydroxybenzotriazole | 138 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-benzyloxycarbonylbicyclo[2.2.2]octane-1-carboxylic acid | 72.0 mg | C(C1=CC=CC=C1)OC(=O)C12CCC(CC1)(CC2)C(=O)O | C17H20O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 265 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4,4-difluorocyclohexylamine hydrochloride | 108 mg | Cl.FC1(CCC(CC1)N)F
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 105 μL | C(C)N(CC)CC | C6H15N
product | 4-benzyloxycarbonylamino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide | 57.0 mg | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)NC2CCC(CC2)(F)F | C23H30F2N2O3
